US09447090B2
To a suspension of 300 mg of {4-amino-1-[(benzyloxy)carbonyl]piperidin-4-yl}acetic acid in 6 ml of methanol was added 150 μl of thionyl chloride, followed by stirring for 2 days. The reaction mixture was concentrated under reduced pressure, ether was added thereto, and the resulting solid was collected by filtration and dried to obtain 350 mg of benzyl 4-amino-4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate hydrochloride.

reactant | {4-amino-1-[(benzyloxy)carbonyl]piperidin-4-yl}acetic acid | 300 mg | NC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)CC(=O)O | C15H20N2O4
reactant | thionyl chloride | 150 μl | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 6 ml | CO | CH4O
product | benzyl 4-amino-4-(2-methoxy-2-oxoethyl)piperidine-1-carboxylate hydrochloride | 350 mg | Cl.NC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)CC(=O)OC | InChI=1S/C16H22N2O4.ClH/c1-21-14(19)11-16(17)7-9-18(10-8-16)15(20)22-12-13-5-3-2-4-6-13;/h2-6H,7-12,17H2,1H3;1H
